US06787561B1
Synthesis of 5-(5-hydroxypentyloxy)-1-phenyltetrazole
10 ml of THF solution containing 225 mg of potassium t-butoxide was added with 0.6 g of 1,5-pentanediol and 0.36 g of 5-chloro-1-phenyl-tetrazole and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added with water and extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane) to obtain 0.4 g of the title compound (yield: 81%).

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | potassium t-butoxide | 225 mg | CC(C)([O-])C.[K+]
reactant | 1,5-pentanediol | 0.6 g | C(CCCCO)O | C5H12O2
reactant | 5-chloro-1-phenyl-tetrazole | 0.36 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | water | O | H2O
product | 5-(5-hydroxypentyloxy)-1-phenyltetrazole | 0.4 g, yield: 81% | OCCCCCOC1=NN=NN1C1=CC=CC=C1 | C12H16N4O2
